US07939533B2
(2S,4R)-N-[4-(2-Chloro-phenyl)-6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide
To a solution of 0.15 g (0.32 mmol) N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide and 0.25 g (2.13 mmol) (2S,4R)-4-hydroxy-2-hydroxymethyl-pyrrolidine in 2 ml dimethyl sulfoxide 0.2 g (1.55 mmol) Na2CO3 was added and the solution was stirred at 13° C. for 9 h After cooling to ambient temperature, the solution was poured into 20 ml 0.5 N NaHCO3-solution and extracted three times with 30 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by flash-chromatography (SiO2, CH2Cl2/ethyl acetate 1:2) to give 0.05 g (31%) of the title compound as a white foam.

reactant | N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide | 0.32 mmol, 0.15 g | ClC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)Cl)Cl)=O)C)C1=C(C=CC=C1)Cl | C22H18Cl4N2O
reactant | (2S,4R)-4-hydroxy-2-hydroxymethyl-pyrrolidine | 2.13 mmol, 0.25 g | O[C@@H]1C[C@H](NC1)CO | C5H11NO2
reactant | dimethyl sulfoxide | 1.55 mmol, 2 ml, 0.2 g | CS(=O)C | C2H6OS
solvent | NaHCO3 | 0.5 N, 20 ml | C(=O)(O)[O-].[Na+]
product | (2S,4R)-N-[4-(2-Chloro-phenyl)-6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide | 0.05 g, 31% | ClC1=C(C=CC=C1)C1=C(C=NC(=C1)N1[C@@H](C[C@H](C1)O)CO)N(C(C(C)(C)C1=CC(=CC(=C1)Cl)Cl)=O)C | C27H28Cl3N3O3
